US04529792
1. Synthesis of 4,4'-methylenebis (α-hydroxypropiamidocyclohexane)
Molten 4,4'-methylenebis(cyclohexylamine) (224.0 g, 1.065 moles) was placed in a 1 liter round bottom flask and 85% lactic acid (225.5 g, 2.13 moles) added slowly through an addition funnel with stirring and cooling. The resultant liquid was then heated in an oil bath to 190° C. whereupon distillation of water occurred. Heating was continued at 190° C. for 4 hours after which time distillation of water subsided and the liquid was poured into a Pyrex baking dish. Upon cooling the product solidified into a clear, amber colored glass. The solid was broken up and recrystallized twice from tetrahydrofuran containing 10% methanol to give lustrous, white flakes; m.p. 195°-199° C.; infrared (Nujol), 1640 cm-1, 3300 cm-1 ; proton nuclear magnetic resonance (DMSO-d6 /TMS, 100 MHz), δ0.6-1.5 (complex multiplet with doublet superimposed at δ1.15, 18 protons), δ1.5-1.8 (doublet, 8 protons), δ3.50 (broad singlet, 2 protons), δ3.7-4.1 (multiplet, 2 protons), δ5.35 (doublet, 2 protons), δ7.30 (doublet, 2 protons).

reactant | 4,4'-methylenebis(cyclohexylamine) | 1.065 moles, 224.0 g | C(C1CCC(CC1)N)C1CCC(CC1)N | C13H26N2
reactant | lactic acid | 2.13 moles, 225.5 g | C(C(O)C)(=O)O | C3H6O3
solvent | water | O | H2O
product | 4,4'-methylenebis (α-hydroxypropiamidocyclohexane) | C(C1CCC(CC1)NC(C(C)O)=O)C1CCC(CC1)NC(C(C)O)=O | C19H34N2O4
